US05958910
4-Isopropyl-benzenesulfonyl chloride
A solution of 11.6 ml of isopropylbenzene in 100 ml of methylene chloride was added at 5° C. within 30 minutes to 18.3 ml of chlorosulfonic acid. The reaction mixture was stirred at 5° C. for 1 hour, poured on to 500 ml of ice-water and, after stirring for 5 minutes, treated with 100 g of ammonium chloride. After extraction with methylene chloride (1×800 ml, 1×500 ml) the organic phases were combined, dried with magnesium sulphate and the solvent was removed on a rotary evaporator. 12.3 g of 4-isopropyl-benzenesulfonyl chloride separated as a reddish oil, which was used without further purification.

reactant | isopropylbenzene | 11.6 ml | C(C)(C)C1=CC=CC=C1 | C9H12
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | ammonium chloride | 100 g | [Cl-].[NH4+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-Isopropyl-benzenesulfonyl chloride | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
